US07576135B2
1-(phenylsulfonyl)pyperidine-4-carboxylic acid ethyl ester
To isonipecotic acid ethyl ester (1.08 mL) dissolved in tetrahydrofuran (10 mL), triethylamine (1.40 mL) was added, and benzenesulfonyl chloride (1.02 mL) was added thereto at 0° C. The resultant mixture was stirred at room temerature for 21 hours. Ice was added to the mixture, followed by stirring for 10 minutes. Ethyl acetate and 0.5N hydrochloric acid were added thereto to thereby give two layers. The organic layer was washed with saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride. The resultant mixture was dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1→2:1), to thereby give the title compound (1.66 g) as a white solid.

reactant | isonipecotic acid ethyl ester | 1.08 mL | C(C)OC(C1CCNCC1)=O | C8H15NO2
reactant | triethylamine | 1.40 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 1.02 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(phenylsulfonyl)pyperidine-4-carboxylic acid ethyl ester | 1.66 g | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C14H19NO4S
